Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C@:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.86021802603
[C:5]([H:6])#[C:7][C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-3.65831309929
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.06581464541
[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[H:8])[C:3]1>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8],-3.64913580911
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.91148048117
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.36998083396
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.0634168777
[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:5].[O:1][C:2]#[C:3][C:4][C:6]([H:7])([H:8])[O:9][H:10],4.01905120802
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.8231030337800003
[C:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[C:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])[H:9].[H:4],3.43401321941
[H:1][C:2]([C:3]([H:4])=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.20769427614100006
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])=[C:11][H:12],1.83158346625
[H:16].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.3997542578300015
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.61690244614
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],3.1634627054
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.18015619712
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.2095886352700003
[C:5]([H:6])([H:7])=[C:8][H:9].[O:1][C:2]#[C:3][O:4]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[C:8][H:9],-1.5478480659399998
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],4.31121103655
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4],1.85891186199
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.97656111853
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],-1.98267146289
[H:1][C:2]#[C:3]/[C:5](=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.97671606292
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][H:9]>>[C:2]([H:3])#[C:4][C:5]([H:6])[O:7][C:8][H:9].[O:1],4.48686130078
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.14373533605
[H:1][C:8]([C:3](=[C:2]=[C:12]([H:13])[H:14])[C:4]([H:5])([H:6])[H:7])=[C:9]([H:10])[H:11]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],1.33671713844
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][H:8],6.54968993166
[H:10].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.20194992718
